// Generated for: spectre
// Generated on: Oct  8 00:01:46 2015
// Design library name: cse562
// Design cell name: proj1_opamp_test
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06N.m"
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06P.m"

// Library name: cse562
// Cell name: proj1_opamp
// View name: schematic
subckt proj1_opamp Vin\+ Vin\- Vout
    P4 (net9 Vin\+ net12 vdd!) ami06P w=100.05u l=3u as=1.50075e-10 \
        ad=1.50075e-10 ps=203.1u pd=203.1u m=1 region=sat
    P3 (net8 Vin\- net9 vdd!) ami06P w=100.05u l=3u as=1.50075e-10 \
        ad=1.50075e-10 ps=203.1u pd=203.1u m=1 region=sat
    P2 (net9 net7 vdd! vdd!) ami06P w=100.05u l=3u as=1.50075e-10 \
        ad=1.50075e-10 ps=203.1u pd=203.1u m=1 region=sat
    P1 (Vout net7 vdd! vdd!) ami06P w=100.05u l=3u as=1.50075e-10 \
        ad=1.50075e-10 ps=203.1u pd=203.1u m=1 region=sat
    P0 (vdd! net7 net14 vdd!) ami06P w=100.05u l=3u as=1.50075e-10 \
        ad=1.50075e-10 ps=203.1u pd=203.1u m=1 region=sat
    N2 (Vout net12 0 0) ami06N w=100.05u l=3u as=1.50075e-10 \
        ad=1.50075e-10 ps=203.1u pd=203.1u m=1 region=sat
    N1 (net12 net8 0 0) ami06N w=100.05u l=3u as=1.50075e-10 \
        ad=1.50075e-10 ps=203.1u pd=203.1u m=1 region=sat
    N0 (0 net8 net8 0) ami06N w=100.05u l=3u as=1.50075e-10 ad=1.50075e-10 \
        ps=203.1u pd=203.1u m=1 region=sat
    I17 (net14 0) isource type=dc dc=1nA  m=1
    C0 (Vout net12) capacitor c=10p m=1
ends proj1_opamp
// End of subcircuit definition.

// Library name: cse562
// Cell name: proj1_opamp_test
// View name: schematic
I0 (net4 net5 net3) proj1_opamp
V1 (net5 0) vsource type=dc dc=1.5
V0 (vdd! 0) vsource type=dc dc=3
V2 (net4 0) vsource type=pulse val0=0 val1=3 period=20n
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc dev=V2 param=dc start=1.45 stop=1.55 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save I0:3 
saveOptions options save=allpub
